US06995144B2
(E)-2-Methoxy-3-[4-[2-(3-methyl-2-thienyl)vinyl]piperidino]methyl-pyrazine
After dissolving 139 mg of (E)-4-[2-(3-methyl-2-thienyl)vinyl]piperidine in 7 ml of tetrahydrofuran, 111 mg of 3-methoxypyrazine-2-carboxaldehyde and 213 mg of sodium triacetoxyborohydride were added while stirring, and the stirring was continued overnight at room temperature. A 1N sodium hydroxide solution was added to the reaction mixture to render it alkaline, and then extraction was performed with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (120 mg, 54% yield).

reactant | (E)-4-[2-(3-methyl-2-thienyl)vinyl]piperidine | 139 mg | CC1=C(SC=C1)/C=C/C1CCNCC1 | C12H17NS
reactant | 3-methoxypyrazine-2-carboxaldehyde | 111 mg | COC=1C(=NC=CN1)C=O | C6H6N2O2
reactant | sodium triacetoxyborohydride | 213 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (E)-2-Methoxy-3-[4-[2-(3-methyl-2-thienyl)vinyl]piperidino]methyl-pyrazine | 120 mg, 54% yield | COC1=NC=CN=C1CN1CCC(CC1)\C=C\C=1SC=CC1C | C18H23N3OS
